US06774136B2
{[1-(4-Methoxy-benzyloxy)-naphthalen-2-yl]-phenylmethyl}-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 and 5 from 1-naphthol and benzylidene-dimethyl-ammonium chloride and 4-methoxybenzyl chloride.

reactant | 1-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | {[1-(4-Methoxy-benzyloxy)-naphthalen-2-yl]-phenylmethyl}-dimethylamine | COC1=CC=C(COC2=C(C=CC3=CC=CC=C23)C(C2=CC=CC=C2)N(C)C)C=C1 | C27H27NO2
